US07964608B2
3-(3-Chloro-phenyl)-1-((R)-1-methanesulfonyl-pyrrolidin-3-yl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (29 mg) was prepared according to general procedure H from (R)-3-(3-chloro-phenyl)-7-methoxy-1-pyrrolidin-3-yl-1H-pyrimido[5,4-c]quinoline-2,4-dione.dihydrochloride (42 mg, 0.1 mmol) and methanesulfonyl chloride. LCMS: m/z 501 [M+1]+.

reactant | (R)-3-(3-chloro-phenyl)-7-methoxy-1-pyrrolidin-3-yl-1H-pyrimido[5,4-c]quinoline-2,4-dione.dihydrochloride | 0.1 mmol, 42 mg | Cl.Cl.ClC=1C=C(C=CC1)N1C(N(C2=C(C=NC=3C(=CC=CC23)OC)C1=O)[C@H]1CNCC1)=O
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 3-(3-Chloro-phenyl)-1-((R)-1-methanesulfonyl-pyrrolidin-3-yl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 29 mg | ClC=1C=C(C=CC1)N1C(N(C2=C(C=NC=3C(=CC=CC23)OC)C1=O)[C@H]1CN(CC1)S(=O)(=O)C)=O | C23H21ClN4O5S
